US04925863
3-[4-(1-methoxycarbonylpropoxy)styryl]-1,2,4-triazole (0.5 g--prepared as the intermediate for Example 22 above), concentrated ammonia (5 ml) and ethanol (10 ml) were placed in a Carius tube, and further saturated with gaseous ammonia for 20 minutes. The tube was cooled in acetone/solid carbon dioxide and sealed, and then heated at 110° for 24 hours. The tube was cooled and opened, and the contents were evaporated to dryness to give the required 3-[4-(1-carbamoylpropoxy)styryl]-1,2,4-triazole, crystallised from methanol, softened at 50° and mp~150°.

reactant | 3-[4-(1-methoxycarbonylpropoxy)styryl]-1,2,4-triazole | COC(=O)C(CC)OC1=CC=C(C=CC2=NNC=N2)C=C1 | C15H17N3O3
reactant | ammonia | 5 ml | N | H3N
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
product | 3-[4-(1-carbamoylpropoxy)styryl]-1,2,4-triazole | C(N)(=O)C(CC)OC1=CC=C(C=CC2=NNC=N2)C=C1 | C14H16N4O2
